US06255333B1
1-(2,6-Dichloro-4-trifluoromethylphenyl)-4-iodo-3-phenylpyrazole
To a stirred solution of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)4iodo-3-phenylpyrazole (2.5 g) in tetrahydrofuiran (50 ml) at 65° C. was added dropwise t-butylnitrite (3 g) in tetrahydrofuran (20 ml) over a period of 30 minutes and heating continued for 3 hours then left at room temperature overnight. The reaction mixture was evaporated to an oil which was purified by column chromatography on silica gel eluted with dichloromethane. Combination and evaporation of appropriate fractions, followed by further column chromatography on silica gel eluted with hexane, then hexane containing 5% ethyl acetate and finally hexane containing 10% ethyl acetate. Combination and evaporation of appropriate fractions gave the title compound as a cream solid m.p. 88-89° C.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)4iodo-3-phenylpyrazole | 2.5 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1=CC=CC=C1)I | C16H9Cl2F3IN3
reactant | t-butylnitrite | 3 g | C(C)(C)(C)ON=O | C4H9NO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-4-iodo-3-phenylpyrazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)I)C1=CC=CC=C1 | C16H8Cl2F3IN2
